datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CN(C)Cc1ccccc1[O:21][H:20].O=C1C=C(S(=O)(=O)[O-])NC(=O)[N-:10]1>>CN(C)Cc1ccccc1[O-:21].O=C1C=C(S(=O)(=O)[O-])NC(=O)[N:10]1[H:20] 10=20;20,21=21",
"C(=C\c1cc[n:10]cc1)\c1ccccc1.N#CC1=C(c2nc3ccccc3s2)C(=O)Oc2cc([O:21][H:20])ccc21>>C(=C\c1cc[n+:10]([H:20])cc1)\c1ccccc1.N#CC1=C(c2nc3ccccc3s2)C(=O)Oc2cc([O-:21])ccc21 10=20;20,21=21",
"C[N+](C)(C)c1cccc([O-:10])c1.Cc1nc([N-][N+](=O)[O-])n[n:21]1[H:20]>>C[N+](C)(C)c1cccc([O:10][H:20])c1.Cc1nc([N-][N+](=O)[O-])n[n-:21]1 10=20;20,21=21",
"CNCC[NH:10]C.c1nc2c(c[n+:21]1[H:20])NCCN2>>CNCC[NH+:10](C)[H:20].c1nc2c(c[n:21]1)NCCN2 10=20;20,21=21",
"CC(C)/C=[N+:21](/C)[H:20].Clc1cccc(C(c2ccccc2)=[NH:10])c1>>CC(C)/C=[N:21]/C.Clc1cccc(C(c2ccccc2)=[NH+:10][H:20])c1 10=20;20,21=21",
"C[NH+](C)CCCNc1cc[n:10]c2ccc([N+](=O)[O-])cc12.Cc1cc([N+](=O)[O-])cc2c1nnn2[O:21][H:20]>>C[NH+](C)CCCNc1cc[n+:10]([H:20])c2ccc([N+](=O)[O-])cc12.Cc1cc([N+](=O)[O-])cc2c1nnn2[O-:21] 10=20;20,21=21",
"COc1cccc2c1CN(C1CC3CCC(C1)[N+:21]3(Cc1ccccc1)[H:20])C2=O.C[C@H]([NH3+])C(=O)N[C@@H](Cc1c[nH]c[n:10]1)C(=O)[O-]>>COc1cccc2c1CN(C1CC3CCC(C1)[N:21]3Cc1ccccc1)C2=O.C[C@H]([NH3+])C(=O)N[C@@H](Cc1c[nH]c[n+:10]1[H:20])C(=O)[O-] 10=20;20,21=21",
"CCc1cc(-c2ccccc2)n[n+:21]([H:20])c1NCC[NH+]1CCOCC1.O=C(CC1CCCCO1)[O-:10]>>CCc1cc(-c2ccccc2)n[n:21]c1NCC[NH+]1CCOCC1.O=C(CC1CCCCO1)[O:10][H:20] 10=20;20,21=21",
"C=C(OC)C(=O)[O-:10].Cc1ccc(C(O)C(C(=O)[O:21][H:20])c2ccc(C3CCCCC3)cc2)cc1>>C=C(OC)C(=O)[O:10][H:20].Cc1ccc(C(O)C(C(=O)[O-:21])c2ccc(C3CCCCC3)cc2)cc1 10=20;20,21=21",
"CC(Cc1ccccc1)[NH:10]C.OC(=C1SCc2ccccc21)[O:21][H:20]>>CC(Cc1ccccc1)[NH+:10](C)[H:20].OC(=C1SCc2ccccc21)[O-:21] 10=20;20,21=21",
"COc1cccc([NH2:10])c1.COc1ccccc1-c1nnn[n:21]1[H:20]>>COc1cccc([NH2+:10][H:20])c1.COc1ccccc1-c1nnn[n-:21]1 10=20;20,21=21",
"O=C1c2ccccc2C(=O)[N-:10]1.O=S(=O)(c1nc2ccccc2s1)[NH:21][H:20]>>O=C1c2ccccc2C(=O)[N:10]1[H:20].O=S(=O)(c1nc2ccccc2s1)[NH-:21] 10=20;20,21=21",
"CC(C)C(C(=O)[O-])[NH:10]C.Cc1ccc(C(=O)N[O:21][H:20])cc1>>CC(C)C(C(=O)[O-])[NH+:10](C)[H:20].Cc1ccc(C(=O)N[O-:21])cc1 10=20;20,21=21",
"Nc1ncc2c(n1)n([C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O)c[n:10]2.O=C(c1cc(Cl)cc([N+](=O)[O-])c1)[O:21][H:20]>>Nc1ncc2c(n1)n([C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O)c[n+:10]2[H:20].O=C(c1cc(Cl)cc([N+](=O)[O-])c1)[O-:21] 10=20;20,21=21",
"CN(CCC[NH3+])CCC[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CN(CCC[NH3+])CCC[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"Cc1c[n:10]c2c(cc(C)c3cccnc32)c1C.Cc1ccccc1[N+:21](=CN(C)C)[H:20]>>Cc1c[n+:10]([H:20])c2c(cc(C)c3cccnc32)c1C.Cc1ccccc1[N:21]=CN(C)C 10=20;20,21=21",
"C=CCC(C)(O)C[N:10](CC)CC.Nc1nc(N)nc(N/C(Nc2ccccc2)=[NH+:21]/[H:20])n1>>C=CCC(C)(O)C[N+:10](CC)(CC)[H:20].Nc1nc(N)nc(NC(Nc2ccccc2)=[NH:21])n1 10=20;20,21=21",
"N/C(C1([NH3+])CCCCC1)=[S+:21]/[H:20].Oc1cccc(O)c1[O-:10]>>NC(C1([NH3+])CCCCC1)=[S:21].Oc1cccc(O)c1[O:10][H:20] 10=20;20,21=21",
"CC(C)[N-:10]C(C)C.CCOC(=O)c1ccccc1-n1nc([O:21][H:20])c(CC)c1C>>CC(C)[N:10](C(C)C)[H:20].CCOC(=O)c1ccccc1-n1nc([O-:21])c(CC)c1C 10=20;20,21=21",
"CC(=O)CC[N+:21]1([H:20])CCOCC1.Cc1cc(C)nc([N-]S(=O)(=O)c2ccc([O-:10])cc2)n1>>CC(=O)CC[N:21]1CCOCC1.Cc1cc(C)nc([N-]S(=O)(=O)c2ccc([O:10][H:20])cc2)n1 10=20;20,21=21",
"CC(=O)c1ccc(O)c2c1ccc[n:10]2.Cc1cc(-c2cc(C)[n+:21]([H:20])[nH]2)[nH][nH+]1>>CC(=O)c1ccc(O)c2c1ccc[n+:10]2[H:20].Cc1cc(-c2cc(C)[n:21][nH]2)[nH][nH+]1 10=20;20,21=21",
"CC[NH+](CC)CC[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CC[NH+](CC)CC[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"C=C(C)C(=O)OCC[NH:10]C(C)C.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>C=C(C)C(=O)OCC[NH+:10](C(C)C)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CC(C)SCC[NH2+:21][H:20].C[N:10](C)Cc1cc(C(=O)c2ccccc2)ccc1[O-]>>CC(C)SCC[NH2:21].C[N+:10](C)(Cc1cc(C(=O)c2ccccc2)ccc1[O-])[H:20] 10=20;20,21=21",
"CC1SC(C)(C(=O)[O-:10])OC1=O.OC(C[NH+]1CCCC1)C[N+:21]1([H:20])CCCC1>>CC1SC(C)(C(=O)[O:10][H:20])OC1=O.OC(C[NH+]1CCCC1)C[N:21]1CCCC1 10=20;20,21=21",
"C=CCNCCC[NH:10]CC=C.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>C=CCNCCC[NH+:10](CC=C)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"COCC1=C(C(=O)[O:21][H:20])CCC1.c1ccc([NH:10]C2CCCC2)cc1>>COCC1=C(C(=O)[O-:21])CCC1.c1ccc([NH+:10](C2CCCC2)[H:20])cc1 10=20;20,21=21",
"O=[N+]([O-])c1ccc([O-:10])c(C[NH+]2CCOCCOCCOCCOCCOCC2)c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=[N+]([O-])c1ccc([O:10][H:20])c(C[NH+]2CCOCCOCCOCCOCCOCC2)c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[C@H]1O[C@H](O[C@H]2CC[C@H](N3C=CC(N)=NC3=O)O[C@@H]2C)[C@H](O)[C@@H](O)[C@@H]1[N+:21](C)(C)[H:20].N#CCC(c1ccccc1)[NH2:10]>>C[C@H]1O[C@H](O[C@H]2CC[C@H](N3C=CC(N)=NC3=O)O[C@@H]2C)[C@H](O)[C@@H](O)[C@@H]1[N:21](C)C.N#CCC(c1ccccc1)[NH2+:10][H:20] 10=20;20,21=21",
